US07307084B2
BD. 7-Benzyloxy-2-ethyl-3-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
10 g (29 mmol) 4-Benzyloxy-6-bromo-2-ethyl-1-methyl-1H-benzimidazole, 4.6 g (17.4 mmol) triphenylphosphine, 1.0 g (4.3 mmol) palladium(II) acetate in 145 ml (290 mmol) dimethylamine (2 M in THF) were transferred to an autoclave and carbonylated (6 bar CO2) at 120° C. for 24 h. The catalyst was filtered off and the filtrate was concentrated in vacuo. Purification of the residue by column chromatography on silica gel (dichloromethane/methanol=93:7) and crystallization from diethyl ether afforded 11.3 g (91%) of the title compound as white crystals. m.p. 104°-108° C.

reactant | 4-Benzyloxy-6-bromo-2-ethyl-1-methyl-1H-benzimidazole | 29 mmol, 10 g | C(C1=CC=CC=C1)OC1=CC(=CC=2N(C(=NC21)CC)C)Br | C17H17BrN2O
reactant | triphenylphosphine | 17.4 mmol, 4.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethylamine | 290 mmol, 2 M, 145 ml | CNC | C2H7N
reactant | CO2 | C(=O)=O | CO2
catalyst | palladium(II) acetate | 4.3 mmol, 1.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Benzyloxy-2-ethyl-3-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 11.3 g, 91% | CN(C(=O)C1=CC2=C(N=C(N2C)CC)C(=C1)OCC1=CC=CC=C1)C | C20H23N3O2
